US09163021B2
[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid
Lithium hydroxide monohydrate (127 mg, 3.03 mmol) in water (0.5 mL) was added to (3-(trifluoromethyl)-1H-pyrazol-1-yl)acetic acid ethyl ester (250 mg, 1.125 mmol) in THF (5 mL). The mixture was stirred at room temperature for 5 hours then the reaction mixture volume was reduced to one third by evaporation in vacuo. The aqueous residue was acidified using aqueous HCl (2M) to pH=5. The resulting off white solid was filtered, collected and dried, washed with ether to afford the title compound as a white solid (42 mg, 19%).

reactant | Lithium hydroxide monohydrate | 3.03 mmol, 127 mg | O.[OH-].[Li+]
reactant | (3-(trifluoromethyl)-1H-pyrazol-1-yl)acetic acid ethyl ester | 1.125 mmol, 250 mg | C(C)OC(CN1N=C(C=C1)C(F)(F)F)=O | C8H9F3N2O2
solvent | water | 0.5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 42 mg, 19% | FC(C1=NN(C=C1)CC(=O)O)(F)F | C6H5F3N2O2
